US06025375
A solution of 2-oxo-1,2-diphenylethyl 2-[(3-methoxy-phenyl)methyl]cyclohexanecarboxylate (440 mg) and ammonium acetate (593 mg) in acetic acid (2.4 ml) was refluxed for 3 hours and cooled to room temperature, and a mixture of water and dichloromethane was added thereto. The organic layer was washed with water and sodium bicarbonate aqueous solution, dried over magnesium sulfate, and evaporated in vacuo to afford 2-[2-[(3-methoxyphenyl)methyl]cyclohexyl]-4,5-diphenyloxazole (394 mg).

reactant | 2-oxo-1,2-diphenylethyl 2-[(3-methoxy-phenyl)methyl]cyclohexanecarboxylate | 440 mg | COC=1C=C(C=CC1)CC1C(CCCC1)C(=O)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C29H30O4
reactant | ammonium acetate | 593 mg | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
product | 2-[2-[(3-methoxyphenyl)methyl]cyclohexyl]-4,5-diphenyloxazole | 394 mg | COC=1C=C(C=CC1)CC1C(CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO2
